US06603044B1
(1-1) Production of N-[4-(1,1,2,3,3,3-Hexafluoropropoxy)-1-methylphenyl]-3-nitrophthalimide
In 30 ml of acetic acid were dissolved 1.93 g of 3-nitrophthalic anhydride and 2.73 g of 4-(1,1,2,3,3,3-hexafluoropropoxy)-1-methylaniline. A reaction was carried out for 3 hours with heating under reflux. After completion of the reaction, the solvent was distilled off under reduced pressure, and the residue was washed with a mixture of ether and hexane, whereby 4.4 g of the objective compound was obtained.

reactant | 3-nitrophthalic anhydride | 1.93 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | 4-(1,1,2,3,3,3-hexafluoropropoxy)-1-methylaniline | 2.73 g | FC(C(C(F)(F)F)F)(OC1=CCC(N)(C=C1)C)F | C10H11F6NO
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-[4-(1,1,2,3,3,3-Hexafluoropropoxy)-1-methylphenyl]-3-nitrophthalimide | 4.4 g, Yield: 98% | FC(C(C(F)(F)F)F)(OC1=CCC(C=C1)(C)N1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O)F | C18H12F6N2O5
